* Time-varying capacitor
* C is connected to nodes 1 and 2
* Control voltage to nodes 3 and 4
* C(t) = V(3,4)
* Capacitance in farads is equal to control voltage in volts
* taken from: http://www.ece.cmu.edu/~mems/pubs/pdfs/ucberkeley/phd_thesis/0053_fedder-1994.pdf
* modified for LTSpice syntax
*
.subckt tvc 1 2 3 4
e1 5 0 VALUE {v(1,2)*v(3,4)}
c 6 0 1
v1 5 6 dc 0
f1 1 2 v1 1
.ends tvc
